US06455520B1
N-{3-[3-(4-methylhomopiperazin-1-ylmethyl)benzamido]-4-methylphenyl}-2-morpholinopyridine-4-carboxamide
Potassium carbonate (0.138 g) was added to a mixture of N-[3-(3-chloromethylbenzamido)-4-methylphenyl]-2-morpholinopyridine-4-carboxamide (0.232 g) and 1-methylhomopiperazine (1 ml) and the mixture was stirred and heated to 80° C. for 16 hours. The reaction mixture was allowed to cool to ambient temperature and water (25 ml) was added. The resultant solid was isolated, washed with water and dried under vacuum at 55° C. There was thus obtained the title compound (0.176 g); NMR Spectrum: (DMSOd6) 1.72 (m, 2H), 2.21 (s, 3H), 2.24 (s, 3H), 2.6 (m, 8H), 3.53 (m, 4H), 3.67 (s, 2H), 3.74 (m, 4H), 7.1 (d, 1H), 7.23 (m, 2H), 7.51 (m, 3H), 7.8 (s, 1H), 7.84 (d, 1H), 7.9 (s, 1H), 8.25 (d, 1H), 9.86 (s, 1H), 10.28 (s, 1H): Mass Spectrum: M+H 543.

reactant | Potassium carbonate | 0.138 g | C([O-])([O-])=O.[K+].[K+]
reactant | N-[3-(3-chloromethylbenzamido)-4-methylphenyl]-2-morpholinopyridine-4-carboxamide | 0.232 g | ClCC=1C=C(C(=O)NC=2C=C(C=CC2C)NC(=O)C2=CC(=NC=C2)N2CCOCC2)C=CC1 | C25H25ClN4O3
reactant | 1-methylhomopiperazine | 1 ml | CN1CCNCCC1 | C6H14N2
solvent | water | 25 ml | O | H2O
product | N-{3-[3-(4-methylhomopiperazin-1-ylmethyl)benzamido]-4-methylphenyl}-2-morpholinopyridine-4-carboxamide | 0.176 g | CN1CCN(CCC1)CC=1C=C(C(=O)NC=2C=C(C=CC2C)NC(=O)C2=CC(=NC=C2)N2CCOCC2)C=CC1 | C31H38N6O3
